US04499102
(4R)-3-[(Carboxymethylamino)acetyl]-2-(2-hydroxyphenyl)-4-thiazolidinecarboxylic acid (compound 81)
(4R)-3-Chloroacetyl-2-(2-hydroxyphenyl)-4-thiazolidinecarboxylic acid (6 g) was added to a stirred solution of glycine (1.5 g) in N sodium hydroxide (80 ml), and stirred overnight at room temperature. The solution was adjusted to pH 1.5 by 20% hydrochloric acid and washed with ethyl acetate. The aqueous layer was adjusted to pH 3.2, and the separated crystals were collected by filtration to 3.28 g (48.2%) of the titled compound: mp 181°-182° C. (dec.) (water); [α]D24 +271.2° (c=0.5, N--NaOH). IR (KBr, cm-1): 3400, 3200, 1740, 1672, 1560, 1440, 1380, 1335, 1212, 752, 648, NMR (K2CO3 in D2O, δ): 3.0-4.3 (6H, m, C5 --H, COCH2NHCH2CO2H), 6.33 and 6.43 (1H, each s, C2 --H), 6.6-7.3 (3H, m, arom. H), 7.82 (1H, br. d, J=8 Hz, arom. H), 9.0-10.3 (2H, br. s, --OH, --CO2H).

reactant | (4R)-3-Chloroacetyl-2-(2-hydroxyphenyl)-4-thiazolidinecarboxylic acid | 6 g | ClCC(=O)N1C(SC[C@H]1C(=O)O)C1=C(C=CC=C1)O | C12H12ClNO4S
reactant | glycine | 1.5 g | NCC(=O)O | C2H5NO2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 80 ml | [OH-].[Na+]
product | (4R)-3-[(Carboxymethylamino)acetyl]-2-(2-hydroxyphenyl)-4-thiazolidinecarboxylic acid | C(=O)(O)CNCC(=O)N1C(SC[C@H]1C(=O)O)C1=C(C=CC=C1)O | C14H16N2O6S
